US06509354B1
3.3 g (4.9 mmol) of 1,1′-thiodi-[5-(2,6-dichloro-4-trifluoromethylphenyl)-2-methylbenzene], 3.0 g (19.5 mmol) of Rongalite and 3.0 g (17.6 mmol) of isopropyl iodide were stirred in 30 ml of N,N-dimethylformamide at room temperature for 3 hours. The resulting reaction mixture was poured into 300 ml of water and extracted with 50 ml of ethyl acetate twice. The ethyl acetate layer was washed with 50 ml of water twice and dried over anhydrous magnesium sulfate, and the ethyl acetate was distilled off under reduced pressure. Purification of the residue by silica gel column chromatography afforded 1.4 g of [5-(2,6-dichloro-4-trifluoromethylphenyl)-2-methylphenyl]isopropyl sulfide (yield 38.0%) as a yellow dough (nD20 1.5462).

reactant | 1,1′-thiodi-[5-(2,6-dichloro-4-trifluoromethylphenyl)-2-methylbenzene] | 4.9 mmol, 3.3 g | S(C1=C(C=CC(=C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C)C1=C(C=CC(=C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C | C28H16Cl4F6S
reactant | Rongalite | 19.5 mmol, 3.0 g | C(O)S(=O)[O-].[Na+]
reactant | isopropyl iodide | 17.6 mmol, 3.0 g | C(C)(C)I | C3H7I
reactant | water | 300 ml | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | [5-(2,6-dichloro-4-trifluoromethylphenyl)-2-methylphenyl]isopropyl sulfide | 1.4 g, yield 38.0% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)C=1C=CC(=C(C1)SC(C)C)C | C17H15Cl2F3S
